US07713993B2
Synthesis of tert-butyl[2-oxo-3-(3,4,5-trifluorophenyl)piperidin-1-yl]carbamate
Sodium iodide (131 mg) and sodium hydride (containing mineral oil at 40%, 70 mg) were added to a solution of tert-butyl N′-[5-(benzotriazol-1-yloxy)-2-(3,4,5-trifluorophenyl)pentanoyl]hydrazinecarboxylate (420 mg) in DMF (3 mL), and the reaction solution was stirred at 100° C. for 19 hours. The reaction solution was left to cool to room temperature. Ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane->ethyl acetate) to obtain 134 mg of the title compound. The property values of the compound are as follows.

reactant | Sodium iodide | 131 mg | [I-].[Na+]
reactant | sodium hydride | 70 mg | [H-].[Na+]
reactant | tert-butyl N′-[5-(benzotriazol-1-yloxy)-2-(3,4,5-trifluorophenyl)pentanoyl]hydrazinecarboxylate | 420 mg | N1(N=NC2=C1C=CC=C2)OCCCC(C(=O)NNC(=O)OC(C)(C)C)C2=CC(=C(C(=C2)F)F)F | C22H24F3N5O4
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl[2-oxo-3-(3,4,5-trifluorophenyl)piperidin-1-yl]carbamate | 134 mg | C(C)(C)(C)OC(NN1C(C(CCC1)C1=CC(=C(C(=C1)F)F)F)=O)=O | C16H19F3N2O3
